US08487106B2
In a reaction vessel, 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester (3.2 g) prepared in the Example 8, sodium carbonate (1.1 g), 1-(2-ethoxyethyl)-2-piperidin-4-yl-1H-benzoimidazole (3.0 g) prepared in the Example 12 and methylalcohol (30 mL) were introduced, and the mixture was reacted for 14 hours under reflux condition. Distilled water (50 mL) was added thereto, and the mixture was stirred and crystallized. The crystals were filtered under reduced pressure, and washed with distilled water, and then dried to obtain 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid ethylester (4.5 g, yield 90%, HPLC purity 98.5% or more).

reactant | 2-[4-(2-methanesulfonyloxy-ethyl)-phenyl]-2-methyl-propionic acid ethylester | 3.2 g | C(C)OC(C(C)(C)C1=CC=C(C=C1)CCOS(=O)(=O)C)=O | C15H22O5S
reactant | sodium carbonate | 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(2-ethoxyethyl)-2-piperidin-4-yl-1H-benzoimidazole | 3.0 g | C(C)OCCN1C(=NC2=C1C=CC=C2)C2CCNCC2 | C16H23N3O
reactant | methylalcohol | 30 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid ethylester | 4.5 g, yield 90% | C(C)OC(C(C)(C)C1=CC=C(C=C1)CCN1CCC(CC1)C1=NC2=C(N1CCOCC)C=CC=C2)=O | C30H41N3O3
